US05496843
Methyl 7-chloro-1,3,4,5-tetrahydrobenz[cd]indole-2-carboxylate
To a solution of 7-chloro-1,3,4,5-tetrahydrobenz[cd]indole-2-carboxylic acid (8 g) in MeOH (100 mL) was added thionyl chloride (6.2 mL) at 0° C. The mixture was refluxed for 13 h, while thionyl chloride (10 mL×4) was added during the reflux. The resulting mixture was concentrated and the residue was purified by silica gel column chromatography with 15:1~1:1 hexane/ethyl acetate to give 2.47 g of the title compound (37%): 1H NMR (CDCl3) δ8.52 (bs, 1H), 7.15 (d, 1H, J=1.5 Hz), 6.84 (d, 1H, J=1.5 Hz), 3.93 (s, 3H), 3.07 (t, 2H, J=6.3 Hz), 2.90 (t, 2 H, J=6.3 Hz), 2.07 (5et, 2H, J=6.3 Hz).

reactant | 7-chloro-1,3,4,5-tetrahydrobenz[cd]indole-2-carboxylic acid | 8 g | ClC=1C=C2C=3C(=C(NC3C1)C(=O)O)CCC2 | C12H10ClNO2
reactant | thionyl chloride | 6.2 mL | S(=O)(Cl)Cl | Cl2OS
reactant | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 100 mL | CO | CH4O
product | Methyl 7-chloro-1,3,4,5-tetrahydrobenz[cd]indole-2-carboxylate | 2.47 g, 37% | ClC=1C=C2C=3C(=C(NC3C1)C(=O)OC)CCC2 | C13H12ClNO2
